US08461134B2
To the solution of N-(2-(benzylthio)-5-nitrophenyl)-2,2,2-trifluoroacetamide (17.5 g, 49 mmol) in methanol (100 ml), added ammonia (15 ml, 7N in CH3OH). The reaction was heated at 60° C. for 2 hours. Then concentrated, extracted with EtOAc, washed with water and brine, dried over Na2SO4. Concentrated to give 11.5 g 2-(benzylthio)-5-nitroaniline as product.

reactant | N-(2-(benzylthio)-5-nitrophenyl)-2,2,2-trifluoroacetamide | 49 mmol, 17.5 g | C(C1=CC=CC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])NC(C(F)(F)F)=O | C15H11F3N2O3S
reactant | ammonia | 7N, 15 ml | N | H3N
solvent | methanol | 100 ml | CO | CH4O
product | 2-(benzylthio)-5-nitroaniline | 11.5 g | C(C1=CC=CC=C1)SC1=C(N)C=C(C=C1)[N+](=O)[O-] | C13H12N2O2S
